US04367238
A mixture of ethyl 2-cyano-2-[2-methoxy-3-(o-tolylthio)phenyl]propionate (10 g) and hydriodic acid (58%, 12 ml) in acetic acid (24 ml) was refluxed under heating for 24 hours. After concentration, the residue was dissolved in aqueous sodium hydrogen sulfite and extracted with diethyl ether. The extract was washed with aqueous sodium hydrogen sulfite and water in turn, dried and evaporated under reduced pressure. To the residue was added acetic anhydride (10 ml), and the mixture was refluxed under heating for 10 minutes and evaporated under reduced pressure. The residue was subjected to column chromatography on silica gel (100 g) and eluted with benzene to give oily crude 3-methyl-7-(o-tolylthio)-2,3-dihydrobenzofuran- 2-one (5.4 g). To this product (5.4 g) were added potassium hydroxide (1.5 g) and methanol (50 ml), and the mixture was refluxed under heating for an hour and concentrated under reduced pressure. The residue was crystallized with a mixture of benzene and n-hexane to give 2-[2-hydroxy-3-(o-tolylthio)phenyl]propionic acid (3.85 g), mp. 123°-125° C.

reactant | ethyl 2-cyano-2-[2-methoxy-3-(o-tolylthio)phenyl]propionate | 10 g | C(#N)C(C(=O)OCC)(C)C1=C(C(=CC=C1)SC1=C(C=CC=C1)C)OC | C20H21NO3S
reactant | hydriodic acid | 12 ml | I | HI
reactant | potassium hydroxide | 1.5 g | [OH-].[K+]
reactant | methanol | 50 ml | CO | CH4O
solvent | acetic acid | 24 ml | C(C)(=O)O | C2H4O2
product | 2-[2-hydroxy-3-(o-tolylthio)phenyl]propionic acid | 3.85 g | OC1=C(C=CC=C1SC1=C(C=CC=C1)C)C(C(=O)O)C | C16H16O3S
